US07501411B2
Step 2: 4-(1-Isopropylpiperidin-4-yl)phenylamine
Hydrazine (35% by weight in water, 0.67 mL, 7.2 mmol) and 10% Pd/C (38 mg, 0.03 mmol) are added to a solution of 1-isopropyl-4-(4-nitrophenyl)piperidine (180 mg, 0.72 mmol) in EtOH (10 mL) and the mixture is heated at reflux for 3 h. After cooling, the mixture is filtered through celite and the solvent evaporated. The residue is redissolved in DCM (25 mL), dried over MgSO4 and the solvent evaporated to afford the desired compound as a pale yellow solid (113 mg, 0.52 mmol) which was used without further purification.

reactant | Hydrazine | 7.2 mmol, 0.67 mL | NN | H4N2
reactant | 1-isopropyl-4-(4-nitrophenyl)piperidine | 0.72 mmol, 180 mg | C(C)(C)N1CCC(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C14H20N2O2
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd/C | 0.03 mmol, 38 mg | [Pd] | Pd
product | 4-(1-Isopropylpiperidin-4-yl)phenylamine | 0.52 mmol, 113 mg | C(C)(C)N1CCC(CC1)C1=CC=C(C=C1)N | C14H22N2
